US05733912
21b. 7a-(5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine hydrochloride salt
7a-(5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine (109 mg, 0.54 mmol) was dissolved in Et2O, and Et2O saturated with HCl (g) was added. The solvent was removed, and the solid was triturated with Et2O and dried to afford the title compound as a white powder (112 mg, 87%); mp 153°-154° C.; 1H NMR D2O, 300 MHz) δ2.12-2.49 (m, 9H), 2.57-2.66 (m, 2H), 3.34-3.43 (m, 2H), 3.79-3.87 (m, 2H), 7.90 (s, 1H), 8.46 (s, 1H), 8.52 (s, 1H); MS (CI/NH3) m/z: 203 (M+H)+ ; MS (CI/NH3): m/z 203 (M+H+), 220 (M+NH4+). Anal. Calcd for C13H18N2.1.4 HCl: C, 61.63; H, 7.72; N, 11.06. Found: C, 61.82; H, 7.89; N, 11.00.

reactant | 7a-(5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine | 0.54 mmol, 109 mg | CC=1C=C(C=NC1)C12CCCN2CCC1 | C13H18N2
reactant | HCl | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | 7a-(5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine hydrochloride salt | 112 mg, 87% | Cl.CC=1C=C(C=NC1)C12CCCN2CCC1 | InChI=1S/C13H18N2.ClH/c1-11-8-12(10-14-9-11)13-4-2-6-15(13)7-3-5-13;/h8-10H,2-7H2,1H3;1H
